US04820817
A solution of benzyl 6-(1-hydroxyethyl)-3-chloro-1-azabicyclo[3.2.0]hept-2-ene-7-one-2-carboxylate (32 mg) in anhydrous dimethylformamide (DMF, 2 ml) is cooled to -40° C. and stirred under a nitrogen atmosphere. A solution of isopropylmercaptan (8 mg) in anhydrous DMF (1 ml) containing 57% sodium hydride (4.4 mg) is added dropwise over 10 mins. The resulting solution is stirred for 2 hrs, with gradual warming to 0° C. The solution is diluted with ethyl acetate (20 ml), washed with water (5×10 ml) and brine, dried over MgSO4, filtered, and evaporated in vacuo. The residue is purified by plc on silica gel GF to yield benzyl 6-(1-hydroxyethyl)-3-isopropylthio-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate.

reactant | benzyl 6-(1-hydroxyethyl)-3-chloro-1-azabicyclo[3.2.0]hept-2-ene-7-one-2-carboxylate | 32 mg | OC(C)C1C2CC(=C(N2C1=O)C(=O)OCC1=CC=CC=C1)Cl | C16H16ClNO4
reactant | isopropylmercaptan | 8 mg | C(C)(C)S | C3H8S
reactant | sodium hydride | 4.4 mg | [H-].[Na+]
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | DMF | 1 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | benzyl 6-(1-hydroxyethyl)-3-isopropylthio-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | OC(C)C1C2CC(=C(N2C1=O)C(=O)OCC1=CC=CC=C1)SC(C)C | C19H23NO4S
